US04159375
A solution of 5.1 g. of 3-chloro-6-(α,α,α-trifluoro-m-tolyl)-1,2,4-triazine in 30 ml. of pyridine is cooled to 0° C. and 3.5 ml. of hydrazine hydrate is added. The mixture is heated to 60° C., maintained at 60° C. for one hour, cooled and poured into ice-water. The resulting slurry is filtered and the solid is washed with ethanol giving 3-hydrazino-6-(α,α,α-trifluoro-m-tolyl)-1,2,4-triazine as a yellow solid.

reactant | 3-chloro-6-(α,α,α-trifluoro-m-tolyl)-1,2,4-triazine | ClC=1N=NC(=CN1)C=1C=C(C=CC1)C(F)(F)F | C10H5ClF3N3
reactant | hydrazine hydrate | O.NN
solvent | pyridine | N1=CC=CC=C1 | C5H5N
product | 3-hydrazino-6-(α,α,α-trifluoro-m-tolyl)-1,2,4-triazine | N(N)C=1N=NC(=CN1)C=1C=C(C=CC1)C(F)(F)F | C10H8F3N5
